US08278331B2
A mixture of 2-methanesulfonyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine and 2-methanesulfinyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine from Example A16 (1 g, 4.2 mmol), 5-amino-4-fluoro-2-methylphenol (1.2 g, 8.5 mmol) and K2CO3 (1.2 g, 8.6 mmol) were combined in DMF (10 mL) using a procedure analogous to Example A10 to provide 2-fluoro-4-methyl-5-(4-(1-methyl-1H-pyrazol-4-yl)pyrimidin-2-yloxy)benzenamine (420 mg). 1H NMR (400 MHz, DMSO-d6): δ 8.42 (d, J=5.2 Hz, 1H), 8.39 (s, 1H), 8.07 (s, 1H), 7.40 (d, J=5.2 Hz, 1H), 6.90 (d, J=9.6 Hz, 1H), 6.47 (d, J=8.4 Hz, 1H), 5.02 (br s, 2H), 3.88 (s, 3H), 1.88 (s, 3H); MS (ESI) m/z: 300.2 (M+H+).

reactant | 2-methanesulfonyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)C=1C=NN(C1)C | C9H10N4O2S
reactant | 2-methanesulfinyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine | CS(=O)C1=NC=CC(=N1)C=1C=NN(C1)C | C9H10N4OS
reactant | 5-amino-4-fluoro-2-methylphenol | 8.5 mmol, 1.2 g | NC=1C(=CC(=C(C1)O)C)F | C7H8FNO
reactant | K2CO3 | 8.6 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-4-methyl-5-(4-(1-methyl-1H-pyrazol-4-yl)pyrimidin-2-yloxy)benzenamine | 420 mg | FC1=C(C=C(C(=C1)C)OC1=NC=CC(=N1)C=1C=NN(C1)C)N | C15H14FN5O
